US04283405
4-(Di-3-thienyl-methylene)-N-methyl-piperidine-oxide
5.5 grams (0.02 mole) of 4-(di-3-thienyl-methylene)-N-methyl-piperidine were dissolved in 50 ml of methanol and treated with 7.2 grams of 30% hydrogen peroxide dropwise with ice cooling and left at room temperature for 8 days. Excess hydrogen peroxide was destroyed by the addition of Pt-carbon. After the filtering and removal of the solvent at room temperature the amineoxide was crystallized in ethyl acetate. M.P. 92°-96° C.; Yield: 77%.

reactant | 4-(di-3-thienyl-methylene)-N-methyl-piperidine | 0.02 mole, 5.5 grams | S1C=C(C=C1)C(=C1CCN(CC1)C)C1=CSC=C1 | C15H17NS2
reactant | hydrogen peroxide | 7.2 grams | OO | H2O2
solvent | methanol | 50 ml | CO | CH4O
product | 4-(Di-3-thienyl-methylene)-N-methyl-piperidine-oxide | Yield: 77% | S1C=C(C=C1)C(=C1CC[N+](CC1)(C)[O-])C1=CSC=C1 | C15H17NOS2
